US06703509B2
1.38 kg of 5-bromonicotinic acid, 1.10 kg of 4-fluorobenzeneboronic acid and 0.40 kg of Pd/activated carbon (5%) are introduced into 8.5 liters of water. The black suspension is rendered alkaline using 1.39 kg of 32% sodium hydroxide solution and warmed to 100° C. After 4 hours, the mixture is subjected to conventional work-up, giving 5-(4-fluorophenyl)nicotinic acid.

reactant | 5-bromonicotinic acid | 1.38 kg | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | 4-fluorobenzeneboronic acid | 1.10 kg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium hydroxide | 1.39 kg | [OH-].[Na+]
catalyst | Pd | 0.40 kg | [Pd] | Pd
solvent | water | 8.5 liters | O | H2O
product | 5-(4-fluorophenyl)nicotinic acid | FC1=CC=C(C=C1)C=1C=NC=C(C(=O)O)C1 | C12H8FNO2
